US04757081
Dissolved in 30 ml of methylene chloride was 1.1 g (0.0029 mole) of 3-methyl-1-(4-methylthiophenyl)-2,6-diphenyl-4(1H)-pyridinone, followed by addition of 0.6 g (0.0034 mole) of m-chloroperbenzoic acid (as oxidizing agent). After stirring the reaction mixture for 15 minutes, it was poured into water, followed by extraction with methylene chloride. The organic layer (the extract) was washed with 20 ml of a saturated aqueous solution of sodium hydrogen carbonate and then with water. The organic layer was thereafter dried over anhydrous sodium sulfate. The solvent was distilled off and the resulting crystals were recrystallized form a 2:1 mixed solvent of acetone and hexane, affording 1.1 g of 1-(4-methanesulfinylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 242°-244° C.

reactant | 3-methyl-1-(4-methylthiophenyl)-2,6-diphenyl-4(1H)-pyridinone | 0.0029 mole, 1.1 g | CC1=C(N(C(=CC1=O)C1=CC=CC=C1)C1=CC=C(C=C1)SC)C1=CC=CC=C1 | C25H21NOS
reactant | m-chloroperbenzoic acid | 0.0034 mole, 0.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-methanesulfinylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 1.1 g | CS(=O)C1=CC=C(C=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C25H21NO2S
